US05587386
3,3-Dimethyl-1-[1-(R)-phenylethyl]-pyrrolidin-2,4-dione
A mixture of 18.23 g of 9,9-dimethyl-8-oxo-7-[1-(R)-phenylethyl]-7-aza-1,4-dioxaspiro[4.4]nonane, 70 ml of 1N hydrochloric acid and 20 g of p-toluenesulfonic acid in 250 ml of acetone was heated under reflux for 20 hrs. During the reaction, 20 g of p-toluenesulfonic acid was further added. Solvent was removed under reduced pressure and the residue was extracted with chloroform. The extract was washed with a saturated sodium bicarbonate aqueous solution and dried. Solvent was removed under reduced pressure, and the residue was purified by silica gel chromatography (300 g of silica gel in a column) while eluting with a mixture of n-hexane and ethyl acetate (4:1, v/v) to yield 11.85 g of the titled compound.

reactant | 9,9-dimethyl-8-oxo-7-[1-(R)-phenylethyl]-7-aza-1,4-dioxaspiro[4.4]nonane | 18.23 g | CC1(C(N(CC12OCCO2)[C@H](C)C2=CC=CC=C2)=O)C | C16H21NO3
reactant | hydrochloric acid | 1N, 70 ml | Cl | ClH
reactant | p-toluenesulfonic acid | 20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-toluenesulfonic acid | 20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 3,3-Dimethyl-1-[1-(R)-phenylethyl]-pyrrolidin-2,4-dione | 11.85 g | CC1(C(N(CC1=O)[C@H](C)C1=CC=CC=C1)=O)C | C14H17NO2
